US05234928
1-(2,4-Dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetic acid
Into 50 ml of ethanol were dissolved 2.0 g of ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetate, and, after added 4.5 ml of 1N aqueous solution of sodium hydroxide, the mixture was refluxed for 1.5 hours. Ethanol was distilled off, water was added, pH was made to be 5 with 3N hydrochloric acid, and the deposits were collected by filtration. They were recrystallized from dioxane to obtain 930 mg of title compound. m.p. 188°-189° C.

reactant | ethyl 1-(2,4-dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetate | 2.0 g | ClC1=C(C=CC(=C1)Cl)CN1C(N(C(C2=CC(=C(C=C12)C=1NC=CN1)F)=O)CC(=O)OCC)=O | C22H17Cl2FN4O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(2,4-Dichlorophenyl)methyl-1,4-dihydro-2,4-dioxo-6-fluoro-7-imidazolyl-3(2H)-quinazolineacetic acid | 930 mg | ClC1=C(C=CC(=C1)Cl)CN1C(N(C(C2=CC(=C(C=C12)C=1NC=CN1)F)=O)CC(=O)O)=O | C20H13Cl2FN4O4
